US09212274B2
Added to a glass bottle with a capacity of 200 ml sealed with a rubber stopper after drying and nitrogen substitution were 0.05 mol of VOCl3 (oxovanadium trichloride), 0.10 mol of neopentyl alcohol, and toluene. Then, hydrochloric acid generated while bubbling with nitrogen was removed through a needle to obtain a toluene solution of dineopentoxy oxovanadium chloride.

reactant | oxovanadium trichloride | 0.05 mol | [Cl-].[Cl-].[Cl-].O=[V+3]
reactant | neopentyl alcohol | 0.10 mol | C(C(C)(C)C)O | C5H12O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dineopentoxy oxovanadium chloride | [Cl-].C(C(C)(C)C)O[V+](=O)OCC(C)(C)C | InChI=1S/2C5H11O.ClH.O.V/c2*1-5(2,3)4-6;;;/h2*4H2,1-3H3;1H;;/q2*-1;;;+3/p-1
